US07105503B2
Preparation of 3-(Morpholin-4-yl)methyl-5-nitrophenylamine
A solution of 3-bromomethyl-5-nitrophenylamine (398 mg, 1.72 mmol), triethylamine (0.3 mL) and morpholine (0.2 mL) in 15 mL of THF was heated at 60° C. for 30 minutes. The solvent was evaporated in vacuo. The residue was mixed with water (20 mL) and extracted with ether. Organic layer was separated, dried over MgSO4 and concentrated in vacuo to afford a yellow solid (411 mg), which was purified by column chromatography. The title compound was isolated as yellow crystals in an amount of 302 mg (1.274 mmol, 74%); MS (m/z, ES+): 238 (M+1, 100%).

reactant | 3-bromomethyl-5-nitrophenylamine | 1.72 mmol, 398 mg | BrCC=1C=C(C=C(C1)[N+](=O)[O-])N | C7H7BrN2O2
reactant | triethylamine | 0.3 mL | C(C)N(CC)CC | C6H15N
reactant | morpholine | 0.2 mL | N1CCOCC1 | C4H9NO
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 3-(Morpholin-4-yl)methyl-5-nitrophenylamine | 411 mg | N1(CCOCC1)CC=1C=C(C=C(C1)[N+](=O)[O-])N | C11H15N3O3
